US04910202
To a stirred solution of 84.0 g (0.744 mol) of N-(2-aminoethyl)-N-methyl-1,2-ethanediamine (see U.S. Pat. No. 3,201,472 for an example of how to obtain this material) in 700 ml of tetrahydrofuran was added 88.6 g (0.372 mol) of 1-(3,5-diamino-6-chloropyrazinoyl)imidazole in 10 portions over 1.5 hours. After 1 hour at ambient temperature the reaction mixture was filtered and concentrated to 300 ml. The solution was added dropwise to 1.4 liters of ether with vigorous stirring. The solid was filtered, washed with ether and dried. There was obtained 74.3 g (0.258 mol, 70%) of 3,5-diamino-N-2-[(2-aminoethyl)methylamino]ethyl]-6-chloropyrazinecarboxamide. A sample was filtered through a pad of silica gel and eluted with 5:95 (v/v) methanol:methylene chloride saturated wth ammonia gas; mp 138°-139.5° C.

reactant | N-(2-aminoethyl)-N-methyl-1,2-ethanediamine | 0.744 mol, 84.0 g | NCCN(CCN)C | C5H15N3
reactant | 1-(3,5-diamino-6-chloropyrazinoyl)imidazole | 0.372 mol, 88.6 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)N1C=NC=C1 | C8H7ClN6O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 6-chloropyrazinecarboxamide | ClC1=CN=CC(=N1)C(=O)N | C5H4ClN3O
